US05273999
A mixture of 1.5 g (9.15 mmol) of 6-hydroxy-3,4-dihydrocoumarin, 2.1 g (10 mmol) of ethyl 5-bromovalerate, 4.16 g (30 mmol) of anhydrous, granular potassium carbonate, and 15 mL of N,N-dimethylformamide was stirred at room temperature, for 23 hr. The resulting dark-brown slurry was diluted with ether and washed with water and brine. Completion of the usual work-up gave 2.32 of a red-orange oil which was chromatographed on 50 g of silica gel. Elution with 1:1 hexane-ether gave 2.03 g of a yellow oil which was a mixture of the desired 5-[(3,4-dihydro-2-oxo-2H-1-benzopyran-6-yl)oxy]pentanoic acid ethyl ester and an impurity. This material was dissolved in 25 mL of ethanol and 52 mg of p-toluenesulfonic acid monohydrate was added. The resulting solution was stirred and refluxed for 22.5 hr and then concentrated in vacuo. The residue was dissolved in ether and the ether solution was processed in the usual manner giving an amber oil. This material was chromatographed on 50 g of silica gel. Elution with 1:1 hexane-ether afforded 1.90 g (61.4%) of 5-(5-ethoxy-5-oxopentyloxy)-2-hydroxybenzenepropanoic acid ethyl ester as a pale-yellow oil.

reactant | 5-[(3,4-dihydro-2-oxo-2H-1-benzopyran-6-yl)oxy]pentanoic acid ethyl ester | C(C)OC(CCCCOC=1C=CC2=C(CCC(O2)=O)C1)=O | C16H20O5
reactant | p-toluenesulfonic acid monohydrate | 52 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-(5-ethoxy-5-oxopentyloxy)-2-hydroxybenzenepropanoic acid ethyl ester | 1.90 g, 61.4% | C(C)OC(CCC1=C(C=CC(=C1)OCCCCC(=O)OCC)O)=O | C18H26O6
